US07012075B2
To tert-butyl 4-[4-(5-amino-3-methylisoxazol-4-yl)phenyl]piperazine-1-carboxylate (900 mg, 2.51 mmol) and DMAP (1.02 g, 8.3 mmol) in CH2Cl2 (25 mL) at 0° C. under dry nitrogen was added 2,2,2-trichloroethyl chloroformate (1.02 g, 8.3 mmol) dropwise and the reaction was warned to rt and stirred for 1 hour. Additional aliquots of DMAP (1.02 g, 8.3 mmol) and 2,2,2-trichloroethyl chloroformate (1.02 g, 8.3 mmol) were added and the reaction mixture was stirred for 2½ hours. Et2O was added and the reaction was poured into aqueous 10% HCl, extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 3/7) to afford tert-butyl 4-[4-(3-methyl-5-{[(2,2,2-trichloroethoxy)carbonyl]amino}isoxazol-4-yl)phenyl]piperazine-1-carboxylate.

reactant | tert-butyl 4-[4-(5-amino-3-methylisoxazol-4-yl)phenyl]piperazine-1-carboxylate | 2.51 mmol, 900 mg | NC1=C(C(=NO1)C)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H26N4O3
reactant | 2,2,2-trichloroethyl chloroformate | 8.3 mmol, 1.02 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2,2,2-trichloroethyl chloroformate | 8.3 mmol, 1.02 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | Cl | ClH
catalyst | DMAP | 8.3 mmol, 1.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 8.3 mmol, 1.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-[4-(3-methyl-5-{[(2,2,2-trichloroethoxy)carbonyl]amino}isoxazol-4-yl)phenyl]piperazine-1-carboxylate | CC1=NOC(=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NC(=O)OCC(Cl)(Cl)Cl | C22H27Cl3N4O5
